US07560546B2
3-[(3-Hydroxyazetidin-1-yl)sulfonyl]-5-iodo-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-iodo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and morpholine with 3-hydroxyazetidine, the title compound was obtained. Proton NMR for the product was consistent with the titled compound. ESI+MS: 421.88 [M+H]+.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 5-iodo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | IC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13ClINO6S2
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 3-hydroxyazetidine | OC1CNC1 | C3H7NO
product | 3-[(3-Hydroxyazetidin-1-yl)sulfonyl]-5-iodo-1H-indole-2-carboxamide | OC1CN(C1)S(=O)(=O)C1=C(NC2=CC=C(C=C12)I)C(=O)N | C12H12IN3O4S
